US06448241B1
2-(Morpholin-4-ylmethyl)-6-trifluoro-methylquinoline may be prepared by carrying out the procedure as in Example 29, but starting with 3 g of 2-chloromethyl-6-trifluoromethylquinoline and 3.18 g of morpholine in 30 ml of ethanol. The crude product obtained is chromatographed on a silica gel column, eluting with a mixture of dichloromethane and methanol (97.5-2.5 by volume). 3.5 g of 2-(morpholin-4-yl-methyl)-6-trifluoromethylquinoline are thus obtained in the form of an orange-coloured oil [1H NMR spectrum in CDCl3, T=300K, δ in ppm (300 MHz): 2.55 (4H, m, 2 NCH2), 3.75 (4H, m, 2 OCH2), 3.85 (2H, s, NCH2), 7.75 (1H, d, J=8 Hz, arom. CH), 7.85 (1H, dd, J=8 and 2 Hz, arom. CH), between 8.10 and 8.25 (3H, m, 3arom. CH)].

reactant | 2-chloromethyl-6-trifluoromethylquinoline | 3 g | ClCC1=NC2=CC=C(C=C2C=C1)C(F)(F)F | C11H7ClF3N
reactant | morpholine | 3.18 g | N1CCOCC1 | C4H9NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(morpholin-4-yl-methyl)-6-trifluoromethylquinoline | 3.5 g | N1(CCOCC1)CC1=NC2=CC=C(C=C2C=C1)C(F)(F)F | C15H15F3N2O
